US06448281B1
(S)-3-(5-Carboxymethoxy-1H-indol-3-yl)-2-{[1-(1-cyclohexyl-2-furan-3-yl-6-methyl-1H-benzimidazol-5-yl)-methanoyl]-amino}-propionic Acid (Entry 5009, Table 5)
1-Cyclohexyl-2-furan-3-yl-6-methyl-1H-benzimidazole-5-carboxylic acid was coupled to 5-hydroxy-(S)-tryptophan methyl ester hydrochloride in the usual manner (Example 154). The material was then alkylated with methyl bromoacetate as described previously to give after deprotection by saponification and preparative C18 reversed-phase HPLC, the title compound of example 155.

reactant | 1-Cyclohexyl-2-furan-3-yl-6-methyl-1H-benzimidazole-5-carboxylic acid | C1(CCCCC1)N1C(=NC2=C1C=C(C(=C2)C(=O)O)C)C2=COC=C2 | C19H20N2O3
reactant | 5-hydroxy-(S)-tryptophan methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CNC2=CC=C(C=C12)O)=O
reactant | methyl bromoacetate | BrCC(=O)OC | C3H5BrO2
product | (S)-3-(5-Carboxymethoxy-1H-indol-3-yl)-2-{[1-(1-cyclohexyl-2-furan-3-yl-6-methyl-1H-benzimidazol-5-yl)-methanoyl]-amino}-propionic Acid | C(=O)(O)COC=1C=C2C(=CNC2=CC1)C[C@@H](C(=O)O)NC(=O)C1=CC2=C(N(C(=N2)C2=COC=C2)C2CCCCC2)C=C1C | C32H32N4O7
